US06025489
8-Ethyl-4-[(2-(diethylamino)ethyl)amino]imidazo[2,1-h]pteridin-6(5H)-one
Prepared by reaction of 4,6-dichloro-5-nitropyrimidine with N,N-diethyl-N'-benzylethylenediamine, followed by displacement with 4-ethylimidazole, reduction with tin (II) chloride, cyclization with carbonyidiimidazole and debenzylation with 6 N HCl.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | N,N-diethyl-N'-benzylethylenediamine | C(C)N(CCNCC1=CC=CC=C1)CC | C13H22N2
reactant | 4-ethylimidazole | C(C)C=1N=CNC1 | C5H8N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyidiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 6 N | Cl | ClH
product | 8-Ethyl-4-[(2-(diethylamino)ethyl)amino]imidazo[2,1-h]pteridin-6(5H)-one | C(C)C=1N=C2C(NC=3C(=NC=NC3N2C1)NCCN(CC)CC)=O | C16H23N7O
